US06967197B2
To a solution of N-(2-tetrahydropyranyloxy)-2-[(S)-7-(5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (100 mg) and cyclohexanecarbaldehyde (46 mg) in ethanol were added sodium cyanoborohydride (26 mg) and acetic acid (1 drop) in an ice-water bath. After 1 hour stirring, to the reaction mixture was added water. The mixture was extracted with ethyl acetate. The organic layer was washed with water twice and brine, dried over magnesium sulfate and evaporated. The residue was purified by flash silica gel chromatography eluting with hexane-ethyl acetate=5-1, 2-1, 1-2 to give N-(2-tetrahydropyranyloxy)-2-[(S)-4-(cyclohexylmethyl)-7-(5-(4-ethylphenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (91 mg) as colorless amorphous.

reactant | N-(2-tetrahydropyranyloxy)-2-[(S)-7-(5-(4-ethylphenyl)-2-thienyl]-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 100 mg | O1C(CCCC1)ONC(C[C@@]1(CCNCCS1(=O)=O)C=1SC(=CC1)C1=CC=C(C=C1)CC)=O | C24H32N2O5S2
reactant | cyclohexanecarbaldehyde | 46 mg | C1(CCCCC1)C=O | C7H12O
reactant | sodium cyanoborohydride | 26 mg | C(#N)[BH3-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | N-(2-tetrahydropyranyloxy)-2-[(S)-4-(cyclohexylmethyl)-7-(5-(4-ethylphenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 91 mg | O1C(CCCC1)ONC(C[C@@]1(CCN(CCS1(=O)=O)CC1CCCCC1)C=1SC(=CC1)C1=CC=C(C=C1)CC)=O | C31H44N2O5S2
